US03953463
This procedure required close temperature control to avoid tar formation. To avoid this, the method was modified to a two-step process wherein the intermediate alpha-hydroxy acid was isolated and pyrolyzed separately. 4-Trifluoromethylacetophenone (75.2 g, 0.4 mole) and OHCCO2H.H2O (75.2 g) were heated neat at 79°-80° for 8 hr. The hot mixture was poured into diluted aqueous HCl (7.5 ml of concd HCl and 800 ml of H2O) with stirring. The aqueous mixture was extracted with Et2O (2 × 250 ml), and the aqueous phase was discarded. The extract was washed with H2O (2 × 100 ml), and dried (Na2SO4), and Et2O was removed (aspirator). The resulting residue was digested with hot CHCl3 (100 ml) and the mixture was concentrated to a volume of 80-85 ml. Petroleum ether (30°-60°, 250 ml), was added with stirring. The resulting precipitate was collected and washed with petroleum ether (100 ml). (Removal of petroleum ether from the combined washes and filtrate yielded unreacted acetophenone, 39.3 g, 52.3%, suitable for recycling.) The solid was digested again with CHCl3 (150 ml), filtered, and air-dried to yield 2-hydroxy-3-(4-trifluoromethylbenzoyl)propionic acid (31.2 g, 62%), mp 118°-120°. Anal. (C11H9F3O4) C, H. The alpha-hydroxy acid was heated neat under vacuum (1-2 mm) in an oil bath until the internal temperature reached 155°. The temperature was increased to 160° over 40 minutes to complete the elimination of H2O. The flask was allowed to cool and crystallization of the title acrylic acid usually began at around 138°. The product was sufficiently pure for conversion to isonicotinic acid.

reactant | 4-Trifluoromethylacetophenone | 0.4 mole, 75.2 g | CC(=O)C1=CC=C(C=C1)C(F)(F)F | C9H7F3O
reactant | OHCCO2H.H2O | 75.2 g | C(=O)C(=O)O.O
reactant | HCl | 7.5 ml | Cl | ClH
product | acetophenone | C(C)(=O)C1=CC=CC=C1 | C8H8O
